US08067420B2
A mixture of benzo[d]thiazole-2-thiol (1.264 g, 7.56 mmol), 2-(4-chlorophenethoxy)-3-methoxypyrazine (1.00 g, 3.78 mmol) and NaHCO3 (1.587 g, 18.89 mmol) in DMA (10 mL) was stirred at 135° C. for 6 hours. After cooling to RT, the mixture was diluted with a solution of saturated NaHCO3 (55 ml) and was then extracted with EtOAc (60 ml). The EtOAc layer was dried over Na2SO4 and concentrated. The crude product was purified by silica gel chromatography employing a solvent gradient (hexane to 100% EtOAc) to elute 3-(4-chlorophenethoxy)pyrazin-2(1H)-one (477 mg, 1.808 mmol, 47.9% yield) as off-white solid. 1H NMR (400 MHz, chloroform-d) δ ppm 7.27-7.31 (2H, m), 7.19-7.25 (2H, m), 6.95 (1H, d, J=4.27 Hz), 6.89 (1H, d, J=4.52 Hz), 4.54 (2H, t, J=7.53 Hz), 3.14 (2H, t, J=7.40 Hz).

reactant | benzo[d]thiazole-2-thiol | 7.56 mmol, 1.264 g | S1C(=NC2=C1C=CC=C2)S | C7H5NS2
reactant | 2-(4-chlorophenethoxy)-3-methoxypyrazine | 3.78 mmol, 1.00 g | ClC1=CC=C(CCOC2=NC=CN=C2OC)C=C1 | C13H13ClN2O2
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | NaHCO3 | 55 ml | C(=O)(O)[O-].[Na+]
solvent | NaHCO3 | 18.89 mmol, 1.587 g | C(=O)(O)[O-].[Na+]
product | 3-(4-chlorophenethoxy)pyrazin-2(1H)-one | 1.808 mmol, 477 mg, 47.9% yield | ClC1=CC=C(CCOC=2C(NC=CN2)=O)C=C1 | C12H11ClN2O2
